US09303035B2
Step 2: 3-(6-(3-((tert-Butyldimethylsilyl)oxy)-2-(2-(4-chlorothiazol-2-yl)-2-oxoethoxy)propyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile
The title compound was prepared from 2-((1-((tert-butyldimethylsilyl)oxy)-3-(5-(3-cyanophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl)oxy)-N-methoxy-N-methylacetamide and 2-bromo-4-chlorothiazole analogously to Example 13, step 3;

reactant | 2-((1-((tert-butyldimethylsilyl)oxy)-3-(5-(3-cyanophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl)oxy)-N-methoxy-N-methylacetamide | [Si](C)(C)(C(C)(C)C)OCC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)C#N)=O)C)=O)C)OCC(=O)N(C)OC | C28H39N5O6Si
reactant | 2-bromo-4-chlorothiazole | BrC=1SC=C(N1)Cl | C3HBrClNS
product | 3-(6-(3-((tert-Butyldimethylsilyl)oxy)-2-(2-(4-chlorothiazol-2-yl)-2-oxoethoxy)propyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | [Si](C)(C)(C(C)(C)C)OCC(CN1C=C2N(C(N(C(C2=C1C=1C=C(C#N)C=CC1)=O)C)=O)C)OCC(=O)C=1SC=C(N1)Cl | C29H34ClN5O5SSi
